US07951954B2
c) [2-(2-Fluoro-phenyl)-ethyl]-[2-(2-hydroxy-ethyl)-benzyl]-carbamic acid tert-butyl ester
2-(2-Fluoro-phenyl)-ethylamine (0.34 mL) was added to a solution of iso-chroman-1-ol (0.26 g) and acetic acid (0.1 mL) in methanol (5 mL). After stirring for 1 hour, sodium cyanoborohydride (0.17 g) was added and stirred for 18 hours. A few drops of 0.880 ammonia solution was added and the resulting mixture concentrated. The residue was dissolved in methanol (5 mL) and loaded onto a conditioned SCX cartridge (10 g Varian). The cartridge was washed with methanol (3×20 mL), then eluted with a methanolic ammonia solution (2×15 mL) and the combined elution fractions evaporated. The residue was dissolved in dimethylformamide (5 mL) and triethylamine (0.37 mL) added, followed by di-tert-butyl dicarbonate (0.57 g) and the resulting mixture was stirred for 72 hours. The reaction was concentrated, partitioned between ethyl acetate (50 mL) and saturated aqueous sodium bicarbonate solution (50 mL). The organic phase was separated and the aqueous phase extracted with ethyl acetate (2×50 mL). The combined organics were washed sequentially with water (50 mL), brine (50 mL), dried (magnesium sulfate) and concentrated. Purification on silica, eluting with a gradient of iso-hexane:ethyl acetate [1:0 to 4:1], afforded the subtitle compound as a yellow oil (250 mg).

reactant | 2-(2-Fluoro-phenyl)-ethylamine | 0.34 mL | FC1=C(C=CC=C1)CCN | C8H10FN
reactant | iso-chroman-1-ol | 0.26 g | C1(OCCC2=CC=CC=C12)O | C9H10O2
reactant | sodium cyanoborohydride | 0.17 g | C(#N)[BH3-].[Na+]
reactant | ammonia | N | H3N
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | iso-propanol acetonitrile | A few drops | C(C)(C)O.C(C)#N
product | [2-(2-Fluoro-phenyl)-ethyl]-[2-(2-hydroxy-ethyl)-benzyl]-carbamic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(N(CC1=C(C=CC=C1)CCO)CCC1=C(C=CC=C1)F)=O | C22H28FNO3
